US08030337B2
2-Methyl-6,7-dihydro-8H-indeno[5,4-d][1,3]oxazol-8-one
N-(4-Hydroxy-3-oxo-2,3-dihydro-1H-inden-5-yl)acetamide (469 mg, 2.29 mmol) and pyridinium p-toluenesulfonate (115 mg, 0.457 mmol) were heated under reflux in xylene (23 mL) for 2.5 hr. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=10/90→100/0) to give the title compound (363 mg, yield 85%).

reactant | N-(4-Hydroxy-3-oxo-2,3-dihydro-1H-inden-5-yl)acetamide | 2.29 mmol, 469 mg | OC1=C2C(CCC2=CC=C1NC(C)=O)=O | C11H11NO3
reactant | pyridinium p-toluenesulfonate | 0.457 mmol, 115 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | xylene | 23 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 2-Methyl-6,7-dihydro-8H-indeno[5,4-d][1,3]oxazol-8-one | 363 mg, yield 85% | CC=1OC2=C(N1)C=CC=1CCC(C12)=O | C11H9NO2
